US06743776B2
To a solution of ethyl 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoate (2.19 g) in the mixture of ethanol (22 ml) and tetrahydrofuran (22 ml) was added 2N NaOH aq. and refluxed for 5 hours. The reaction mixture was adjusted to pH 1-1.5 with 1N HCl and the resulting precipitate was collected by filtration to give 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride (1.99 g).

reactant | ethyl 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoate | 2.19 g | C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C25H34N2O3
reactant | ethanol | 22 ml | C(C)O | C2H6O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride | 1.99 g | Cl.C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C23H30N2O3.ClH/c1-2-3-4-5-18-28-22-12-10-21(11-13-22)25-16-14-24(15-17-25)20-8-6-19(7-9-20)23(26)27;/h6-13H,2-5,14-18H2,1H3,(H,26,27);1H
